US04406909
97 g (0.4 mol) of 1-(4-chlorophenylmercapto)-2,2-dimethyl-butan-3-one were dissolved in 400 ml of carbon tetrachloride, and 64 g (0.4 mol) of bromine were added dropwise in the course of 30 minutes. The mixture was subsequently stirred at room temperature for 1 hour and was then concentrated by distilling off the solvent. 127 g (99% of theory) of crude 1-bromo-4-(4-chlorophenylmercapto)-3,3-dimethyl-butan-2-one were obtained as a yellowish oil, which was further reacted directly.

reactant | 1-(4-chlorophenylmercapto)-2,2-dimethyl-butan-3-one | 0.4 mol, 97 g | ClC1=CC=C(C=C1)SCC(C(C)=O)(C)C | C12H15ClOS
reactant | bromine | 0.4 mol, 64 g | BrBr | Br2
solvent | carbon tetrachloride | 400 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-bromo-4-(4-chlorophenylmercapto)-3,3-dimethyl-butan-2-one | 127 g, 99% | BrCC(C(CSC1=CC=C(C=C1)Cl)(C)C)=O | C12H14BrClOS
